US06921753B2
(2R,3R,4S, 5R)-2-(2-(Aminomethyl)-6-{[2,2-bis(4-methylphenyl)ethyl]amino}-9H-purin-9-yl)-5-(hydroxymethyl)tetrahydro-3,4-furandiol
(2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-(6-{[2,2-bis(4-methylphenyl)ethyl]amino}-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate (Preparation 59) (837 mg, 1.33 mmol) was dissolved in a saturated solution of ammonia in ethanol (25 ml). 10% Palladium on carbon (168 mg) was added and the suspension was stirred under an atmosphere of hydrogen (414 kPa, 60 psi) for 16 hours. The reaction mixture was filtered through Arbocel (Trade Mark) and the filtrate was evaporated under reduced pressure. The residue was dissolved in methanol (100 ml) and sodium carbonate (100 mg) was added. The suspension was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure and the residue was dissolved in a mixture of dichloromethane (15 ml) and water (15 ml). The dichloromethane layer was washed with water (15 ml) and saturated aqueous sodium chloride solution. The solvent was removed under reduced pressure. The residue was triturated with diethyl ether to give the title compound as a solid (340 mg).

reactant | (2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-(6-{[2,2-bis(4-methylphenyl)ethyl]amino}-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate | 1.33 mmol, 837 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C#N)COC(C)=O | C33H34N6O7
solvent | ammonia | N | H3N
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | 168 mg | [Pd] | Pd
product | (2R,3R,4S, 5R)-2-(2-(Aminomethyl)-6-{[2,2-bis(4-methylphenyl)ethyl]amino}-9H-purin-9-yl)-5-(hydroxymethyl)tetrahydro-3,4-furandiol | 340 mg | NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)CO)NCC(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C27H32N6O4
